M1 (net24 net26 VDD VDD) pmos4
M0 (net26 net24 VDD VDD) pmos4
L2 (net10 VB1) inductor
L1 (net23 VB2) inductor
L0 (net24 net26) inductor
C7 (VLO1 net23) capacitor
C6 (VLO2 net10) capacitor
C5 (net26 VCONT1) capacitor
C4 (net24 VCONT1) capacitor
C3 (net26 VCONT2) capacitor
C2 (net24 VCONT2) capacitor
C1 (net26 VCONT3) capacitor
C0 (net24 VCONT3) capacitor
M5 (VDD net26 net23 VSS) nmos4
M4 (VDD net24 net10 VSS) nmos4
? Missing component
M2 (net24 net26 VSS VSS) nmos4
